US08076488B2
Preparation of 4-(5-Aminoquinolin-8-yloxy)pyridine-2-carboxylic acid methylamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide, substituting 5-amino-8-hydroxyquinoline for 4-aminophenol. 1H-NMR (DMSO-d6) δ 8.72 to 8.66 (m, 2H), 8.60 (dd, J=8.7, 1.8 Hz, 1H), 8.40 (d, J=5.7 Hz, 1H), 7.42 (dd, J=8.7, 4.2 Hz, 1H), 7.37 (d, J=8.4 Hz, 1H), 7.15 (d, J=2.7 Hz, 1H), 7.04 (dd, J=5.4, 2.7 Hz, 1H), 6.73 (d, J=8.1 Hz, 1H), 6.13 (s, 2H), 2.73 (d, J=5.1 Hz, 3H); MS LC-MS (M+H)+=295.2; TLC (5% MeOH/DCM), Rf=0.31.

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-(5-Aminoquinolin-8-yloxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC=1C=CC(=C2C=CC=NC12)N | C16H14N4O2
